US09353075B2
Step 2. Preparation of methyl-2-[tert-butoxycarbonyl-(propanoyl)-amino]-acetate
In a round bottomed flask, at rt, to a mixture of crude methyl 2-(propanoylamino)-acetate (0.78 g, 5.4 mmol) in CH3CN (2.0 mL), di-tert-butyl dicarbonate (1.46 g, 6.7 mmol) and N,N-dimethylaminopyridine (0.053 g, 0.43 mmol) were added. After stirring at rt overnight, the reaction mixture was condensed in vacuo and the residue dissolved in AcOEt. The organic layer was washed with KHSO4 solution and brine, dried over Na2SO4, filtered, and concentrated in vacuo affording a crude product, which was purified by typical silica gel column chromatography, eluting with petroleum ether/AcOEt (90:10) to give title compound (0.862 g, 65%) as colorless oil. MS (ESI) m/z: 268 [M−Na]+. 1H NMR (CDCl3): δ 1.18 (t, J=7.3 Hz, 3H), 1.52 (s, 9H), 2.97 (q, J=7.3 Hz, 2H), 3.76 (s, 3H), 4.48 (s, 2H).

reactant | methyl 2-(propanoylamino)-acetate | 5.4 mmol, 0.78 g | C(CC)(=O)NCC(=O)OC | C6H11NO3
reactant | di-tert-butyl dicarbonate | 6.7 mmol, 1.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 2.0 mL | CC#N | C2H3N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | methyl-2-[tert-butoxycarbonyl-(propanoyl)-amino]-acetate | 0.862 g, 65% | COC(CN(C(CC)=O)C(=O)OC(C)(C)C)=O | C11H19NO5
